US07101899B1
4-(3-methylphenyl)-2-(4-methylsulfonylphenyl)-5-(2-phenylthio-4-pyridyl)-1,3-thiazole
A mixture of 5-(2-fluoro-4-pyridyl)-4-(3-methylphenyl)-2-(4-methylsulfonylphenyl)-1,3-thiazole (0.40 g, 0.94 mmol) and thiophenol (1.0 mL, 9.7 mmol) was stirred at 150° C. for 10 hours. After the reaction mixture was cooled to room temperature, a saturated aqueous solution of sodium hydrogencarbonate was added, the resulting mixture was extracted with ethyl acetate and washed with water. This extract was dried and concentrated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate, 1:1) and recrystallized from ethanol to obtain 0.34 g (yield 70%) of the title compound.

reactant | 5-(2-fluoro-4-pyridyl)-4-(3-methylphenyl)-2-(4-methylsulfonylphenyl)-1,3-thiazole | 0.94 mmol, 0.40 g | FC1=NC=CC(=C1)C1=C(N=C(S1)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC(=CC=C1)C | C22H17FN2O2S2
reactant | thiophenol | 9.7 mmol, 1.0 mL | C1(=CC=CC=C1)S | C6H6S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | 4-(3-methylphenyl)-2-(4-methylsulfonylphenyl)-5-(2-phenylthio-4-pyridyl)-1,3-thiazole | 0.34 g, yield 70% | CC=1C=C(C=CC1)C=1N=C(SC1C1=CC(=NC=C1)SC1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)C | C28H22N2O2S3
